US08461134B2
Chlorosulfonic acid (5.8 g, 49 mmol) was cooled to 0° C., then 2,2,2-trifluoro-N-(3-(2-(methylsulfonyl)ethyl)phenyl)acetamide (2 g, 6.8 mmol) was added slowly. The reaction mixture was allowed to warm to room temperature. Two hours later, the reaction was poured onto ice. The aqueous layer was extracted with ethyl acetate 3 times. The combined organic phase was washed with brine, dried over sodium sulfate. The crude product was purified by pre-HPLC (column: Luna 300×50.0 mm, 10 um; liquid phase: [A-H2O+0.05% TFA; B-MeCN] B %: 0%-27%, 23 min) to give 2-(2-(methylsulfonyl)ethyl)-4-(2,2,2-trifluoroacetamido)benzenesulfonic acid (1.1 g, yield 28%).

reactant | Chlorosulfonic acid | 49 mmol, 5.8 g | ClS(=O)(=O)O | ClHO3S
reactant | 2,2,2-trifluoro-N-(3-(2-(methylsulfonyl)ethyl)phenyl)acetamide | 6.8 mmol, 2 g | FC(C(=O)NC1=CC(=CC=C1)CCS(=O)(=O)C)(F)F | C11H12F3NO3S
product | 2-(2-(methylsulfonyl)ethyl)-4-(2,2,2-trifluoroacetamido)benzenesulfonic acid | 1.1 g, yield 28% | CS(=O)(=O)CCC1=C(C=CC(=C1)NC(C(F)(F)F)=O)S(=O)(=O)O | C11H12F3NO6S2
